US06387904B2
6-(2-(4-(4-Quinazolinyl)piperazinyl)ethyl)-benzoxazolone hydrochloride
To a 35 ml round-bottomed flask equipped with condenser and nitrogen inlet were added 1.22 grams (5.05 mmol) of 6-(2-bromoethyl)benzoxazolone, 1.08 grams (1.5 mmol) of 4-piperazinylquinazoline, 0.85 grams (8.0 mmol) of sodium carbonate, 2 mg of sodium iodide, and 35 ml of ethanol. The reaction was refluxed for 3 days, cooled, diluted with water, and the pH adjusted to 4 with 1N HCl. The aqueous layer was separated, the pH adjusted to 7 with 1N Sodium hydroxide, and the product extracted into ethyl acetate. The ethyl acetate layer was washed with brine, dried, and evaporated to give 1.3 grams of a yellow oil. The oil was crystallized from chloroform (1.1 g), dissolved in ethyl acetate, ethyl acetate saturated with hydrochloric acid gas added, and the mixture concentrated to dryness. The residue gave 0.9 grams (58%) of a yellow salt, m.p. >200° C. NMR (δ, CDCl3): 2.72 (m, 6H), 2.86 (m, 2H), 3.83 (m, 4H), 6.9-7.9 (m, 7H), 8.72 (s, 1H).

reactant | 6-(2-bromoethyl)benzoxazolone | 5.05 mmol, 1.22 grams | BrCCC1=CC2=C(NC(O2)=O)C=C1 | C9H8BrNO2
reactant | 4-piperazinylquinazoline | 1.5 mmol, 1.08 grams | N1(CCNCC1)C1=NC=NC2=CC=CC=C12 | C12H14N4
reactant | sodium carbonate | 8.0 mmol, 0.85 grams | C([O-])([O-])=O.[Na+].[Na+]
reactant | HCl | 1N | Cl | ClH
solvent | water | O | H2O
catalyst | sodium iodide | 2 mg | [I-].[Na+]
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 6-(2-(4-(4-Quinazolinyl)piperazinyl)ethyl)-benzoxazolone hydrochloride | 1.3 grams | Cl.N1=CN=C(C2=CC=CC=C12)N1CCN(CC1)CCC1=CC2=C(NC(O2)=O)C=C1 | InChI=1S/C21H21N5O2.ClH/c27-21-24-18-6-5-15(13-19(18)28-21)7-8-25-9-11-26(12-10-25)20-16-3-1-2-4-17(16)22-14-23-20;/h1-6,13-14H,7-12H2,(H,24,27);1H
